### PR TITLE
Add trigonometric proofs for tanh function

### PR DESCRIPTION
**Pull request by casualPhysics**
Scaled tanh temperate growth proof

### CODE REVIEW

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 1]
```diff
@@ -166,3 +165,77 @@ theorem tanh_hasTemperateGrowth : Function.HasTemperateGrowth Real.tanh := by
     rw [h_equiv]
     simp only [pow_zero, mul_one]
     exact hC x
+
+/-- Iterated derivative for scaled tanh is differentiable -/
+theorem iteratedDeriv_tanh_differentiable (n : ℕ) : Differentiable ℝ (iteratedDeriv n tanh) := by
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean]: Can we make all these lemmas :).

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 2]
```diff
@@ -166,3 +165,77 @@ theorem tanh_hasTemperateGrowth : Function.HasTemperateGrowth Real.tanh := by
...
+  have h : ContDiff ℝ (n + 1) tanh := by
+    apply contDiff_tanh
+  apply h.differentiable_iteratedDeriv
+  have h' : n < n + 1 := by
+    apply Nat.lt_add_one
+  norm_cast
+
+/-- Norm of Iterated derivative for scaled tanh is equal to the norm of its Fderiv -/
+theorem tanh_kx_iteratedDeriv_norm_eq_iteratedFDeriv_norm (n : ℕ) (x : ℝ) :
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean]: probably tanh_const_mul_... would be more in line with conventions.

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 1 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: will do!

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: i made everything a lemma, thought that was more appropriate

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 2 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: changed everything to const mul

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: let me know if all good! committed the changes

**Review by jstoobysmith — APPROVED** [review]
Great, many thanks - approved. Feel free to merge.
